US07091220B2
2-Phenyl-3-(pyrrolidin-1-yl-o-tolylmethyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 2-phenyl-1H-indole and 1-(2-methyl-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 25.

reactant | 2-phenyl-1H-indole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | 1-(2-methyl-benzylidene)-pyrrolidinium chloride | [Cl-].CC1=C(C=[N+]2CCCC2)C=CC=C1
product | 2-Phenyl-3-(pyrrolidin-1-yl-o-tolylmethyl)-1H-indole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(C1=C(C=CC=C1)C)N1CCCC1 | C26H26N2
